data/specific_train_final.csv
"[H:20][O:21][O].CC(C(O[O:10])Cl)Cl>>[H:20][O:10]OC(C(C)Cl)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC(C)CC(C)[O:20].[N+:10](=O)[O-]>>CCC(C)CC(C)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C=O)[O:20][O:21]N=O>>C(C=O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:1].[C:3](=[O:2])=[O:4].[N+:7](=[O:8])[O-:9].[O:5][O:6]>>[CH3:1][O:6][O:5].[C:3](=[O:2])=[O:4].[N+:7](=[O:8])[O-:9] 1-1,6; 6-1,6",Room Temperature,Termination,recombine
"CCCC([O:20])OCC(C)O.[N+:10](=O)[O-]>>CCCC(OCC(C)O)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCOCCO[O:10]>>[H:20][O:10]OCCOCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC1(C2CC1C(C(C2)O)(C)[O:20][O:21][O])C.[N+](=O)[O-]>>CC1(C2CC1C(C(C2)O)(C)[O:20])C.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:6][C:5]([H:7])([H:8])[C:2](=[CH2:1])[CH:3]=[CH2:4].[Cl:9]>>[H:6][C:5]([H:7])[C:2](=[CH2:1])[CH:3]=[CH2:4].[H:8][Cl:9] 9-9,8; 5,8-9,8; 5,8-5",Room Temperature,Propagation,abstraction
"[H:3][C:2]([H:5])([O:4])[Cl:1].[O:6][O:7]>>[H:3][C:2](=[O:4])[Cl:1].[H:5][O:7][O:6] 7-7,5; 2,5-2,4; 4-2,4; 2,5-5,7",Room Temperature,Termination,abstraction
"[H:20][O:21][O].CCC(C(C)O[N+](=O)[O-])O[O:10]>>[H:20][O:10]OC(CC)C(C)O[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
[CH3:1][CH:2]([CH3:3])[CH2:4][CH:5]([CH3:6])[O:7].[N:8](=[O:9])[O:10]>>[CH3:1][CH:2]([CH3:3])[CH2:4][CH:5]([CH3:6])[O:7].[N+:8](=[O:9])[O-:10] 8-10,Room Temperature,Propagation,ha resonance
"[H:20][O:21][O].CCCCC(CO[N+](=O)[O-])O[O:10]>>[H:20][O:10]OC(CCCC)CO[N+](=O)[O-].[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(COC[O:20][O:21]N=O)O>>C(COC[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=O)C(C(O)O)[O:20][OH:21].[He]>>[He].CC(=O)C(C(O)O)[O:20].[OH:21] 20,21-20;20,21-21",Light,Initiation,homolyze
"C1=CC=C(C=C1)[CH:10]CO.[O:20][O]>>C1=CC=C(C=C1)[CH:10](CO)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](=O)C1=CC=CC=C1.[OH:10]>>[H:20][OH:10].C1=CC=C(C=C1)[C:21]=O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:3][C:2](=[CH2:1])[CH:4]([CH2:5][OH:6])[O:7][O:8].[N:9]=[O:10]>>[CH3:3][C:2](=[CH2:1])[CH:4]([CH2:5][OH:6])[O:7][O:8][N:9]=[O:10] 9-9,8; 8-9,8",Room Temperature,Termination,recombine
"[H:20][O:21][O].CC(C)(C1=CC=CC=C1)O[O:10]>>[H:20][O:10]OC(C)(C)C1=CC=CC=C1.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:20](CO[N+](=O)[O-])([CH:21](CO)O)[O:10]>>C[C:20](=[O:10])CO[N+](=O)[O-].C([CH:21]O)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"CC(=O)/C=C\C1C(O1)[C:10]=O.[N+](=O)(O)[O-].[O:20][O]>>CC(=O)/C=C\C1C(O1)[C:10](=O)[O:20][O].[N+](=O)(O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(OCCO)[O:20][O:21][O].[N+](=O)[O-]>>CC([O:20])OCCO.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].C(C(O[O:10])Cl)O>>[H:20][O:10]OC(CO)Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][CH2:2][C:3]12[CH:6]=[C:7]([CH:8][C:9]([CH:10]1[OH:11])([O:5][O:4]2)[CH2:12][CH3:13])[CH3:14]>>[CH3:1][CH2:2][C:3]1([CH:6]=[C:7]([CH:8]2[C:9]([CH:10]1[OH:11])([O:5]2)[CH2:12][CH3:13])[CH3:14])[O:4] 8-8,5; 5,4-8,5; 5,4-4",Room Temperature,Propagation,abstraction
"CC([O:20][O:21][O])Cl>>CC([O:20])Cl.[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(CO)(C(=O)CO)[O:21][OH:20].[He]>>[He].CC(CO)(C(=O)CO)[O:21].[OH:20] 20,21-20;20,21-21",Light,Initiation,homolyze
[CH3:1][CH2:2][O:3][C:4]([CH3:5])([CH3:8])[CH2:6][O:7].[N:10](=[O:9])[O:11]>>[CH3:1][CH2:2][O:3][C:4]([CH3:5])([CH3:8])[CH2:6][O:7].[N+:10](=[O:9])[O-:11] 10-11,Room Temperature,Propagation,ha resonance
"CC(C(OO[O:20][N+:21](=O)[O-])Cl)Cl>>CC(C(OO[O:20])Cl)Cl.[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[C:21](F)([Cl:20])(Cl)Cl.[He]>>[He].[C:21](F)(Cl)Cl.[Cl:20] 20,21-20;20,21-21",Light,Initiation,homolyze
"CC(=O)C(CO)[O:20][O:21]N=O>>CC(=O)C(CO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C)(C[O:20][O:21]N=O)O>>CCC(C)(C[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH2:2]([O:3][O:4][O:5][N+:6](=[O:8])[O-:7])[Br:1]>>[CH2:2]([O:3][O:4][O:5])[Br:1].[N+:6](=[O:8])[O-:7] 6,5-5; 5,6-6",Room Temperature,Initiation,homolyze
[CH3:1][CH2:2][C:3]1=[CH:4][C:5]2([CH:6]([C:7]([CH:8]1[O:9])([O:10][O:11]2)[CH3:12])[OH:13])[CH2:14][CH3:15].[N:16](=[O:17])[O:18]>>[CH3:1][CH2:2][C:3]1=[CH:4][C:5]2([CH:6]([C:7]([CH:8]1[O:9])([O:10][O:11]2)[CH3:12])[OH:13])[CH2:14][CH3:15].[N+:16](=[O:17])[O-:18] 16-18,Room Temperature,Propagation,ha resonance
